US08859571B2
A solution of 3-{[7-hydroxy-6-(methyloxy)-4-quinazolinyl]amino}-N-methyl-4-[(2,2,2-trifluoroethyl)oxy]benzenesulfonamide (170 mg, 0.37 mmol) in DMF (5 mL) was treated with 2-bromopropane (181 mg, 1.48 mmol) and K2CO3 (154 mg, 1.11 mmol) and stirred at 60° C. for 16 hours before being poured into water. The precipitate that formed was collected by filtration, washed with MeOH, and dried to give 3-(7-isopropoxy-6-methoxy-quinazolin-4-ylamino)-N-methyl-4-(2,2,2-trifluoro-ethoxy)-benzenesulfonamide (80 mg, 43%) as an off-white solid.

reactant | 3-{[7-hydroxy-6-(methyloxy)-4-quinazolinyl]amino}-N-methyl-4-[(2,2,2-trifluoroethyl)oxy]benzenesulfonamide | 0.37 mmol, 170 mg | OC1=C(C=C2C(=NC=NC2=C1)NC=1C=C(C=CC1OCC(F)(F)F)S(=O)(=O)NC)OC | C18H17F3N4O5S
reactant | 2-bromopropane | 1.48 mmol, 181 mg | BrC(C)C | C3H7Br
reactant | K2CO3 | 1.11 mmol, 154 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | water | O | H2O
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 3-(7-isopropoxy-6-methoxy-quinazolin-4-ylamino)-N-methyl-4-(2,2,2-trifluoro-ethoxy)-benzenesulfonamide | 80 mg, 43% | C(C)(C)OC1=C(C=C2C(=NC=NC2=C1)NC=1C=C(C=CC1OCC(F)(F)F)S(=O)(=O)NC)OC | C21H23F3N4O5S
